US04062870
2,2-Diethyl-2H-benzo[b]pyran (3.86 g.) was treated with N-bromosuccinimide (7.40 g.) under the conditions described in Example 5 yielding trans-3-bromo-3,4-dihydro-2,2-diethyl-2H-benzo[b]pyran-4-ol (5.70 g.), as a pale yellow solid m.p. 75° - 77° after trituration with 60°-80° petroleum ether. Reaction of this bromohydrin (5.60 g.) with potassium hydroxide pellets (6.38 g.) in diethyl ether (300 ml.) for 4.5 days following Example 7 gave 3,4-epoxy-3,4-dihydro-2,2-diethyl-2H-benzo[b]pyran as a colourless liquid (4.28 g.) displaying signals centred at δ 3.66 and 3.78 (doublets, of coupling constant J = 4Hz) in its p.m.r. spectrum (CDCl3, with TMS as internal standard) corresponding to protons located at C-3 and C-4. Treatment of this epoxide (1.40 g.) with ispropylamine (3.50 g., an excess) and work-up as in Example 1, gave trans-4-isopropylamino-3,4-dihydro-2,2-diethyl-2H-benzo[b]pyran-3-ol hydrochloride (1.67 g.) m.p. 200° - 202°.

reactant | 2,2-Diethyl-2H-benzo[b]pyran | 3.86 g | C(C)C1(C=CC2=C(O1)C=CC=C2)CC | C13H16O
reactant | N-bromosuccinimide | 7.40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | trans-3-bromo-3,4-dihydro-2,2-diethyl-2H-benzo[b]pyran-4-ol | 5.70 g | Br[C@H]1[C@@H](C2=C(OC1(CC)CC)C=CC=C2)O | C13H17BrO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 3,4-epoxy-3,4-dihydro-2,2-diethyl-2H-benzo[b]pyran | O1C2C1C1=C(OC2(CC)CC)C=CC=C1 | C13H16O2
